US05378689
(2R, 4S, 5S)-5-(t-Butoxycarbonyl)amino-6-cyclohexyl-N-ethyl-4-hydroxy-2-methylhexanamide
A solution of 325 mg (1.0 mmole) of (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one (prepared as described in Preparation 2) in 10 ml of a 23% by volume methanolic solution of ethylamine was allowed to stand at room temperature for 3 hours and 55 minutes, after which the solvent was removed by distillation under reduced pressure. The residue was then recrystallizated from diisopropyl ether, to afford 321 mg of the title compound as white crystals, melting at 126°-127° C.

reactant | (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one | 1.0 mmole, 325 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C | C18H31NO4
reactant | ethylamine | C(C)N | C2H7N
product | (2R, 4S, 5S)-5-(t-Butoxycarbonyl)amino-6-cyclohexyl-N-ethyl-4-hydroxy-2-methylhexanamide | 321 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCC)C)O)CC1CCCCC1 | C20H38N2O4
